US06645939B1
To a solution of azetidine-2(S)-carboxylic acid, methyl ester hydrochloride salt (6.6 mmol, 1.0 g) in anhydrous dichloromethane (14 mL) was added di-tert-butyl dicarbonate (1.05 equiv; 6.9 mmol, 1.51 g), triethylamine (3.0 equiv; 19.8 mmol, 2.0 g, 2.76 mL), and 4-dimethyl-aminopyridine in that order at 25° C. Evolution of gas was observed almost immediately and the reaction mixture became cloudy. After stirring overnight (15 h) it was diluted with ethyl acetate and washed with 1N hydrochloric acid, saturated bicarbonate solution, and brine. Drying (MgSO4), filtration, and concentration afforded N-(tert-butyloxycarbonyl)-azetidine-2(S)-carboxylic acid, methyl ester as a pale yellow oil (1.24 g, 87% yield) of satisfactory purity.

reactant | azetidine-2(S)-carboxylic acid, methyl ester hydrochloride salt | 6.6 mmol, 1.0 g | Cl.N1[C@@H](CC1)C(=O)OC
reactant | di-tert-butyl dicarbonate | 6.9 mmol, 1.51 g, 1.05 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 19.8 mmol, 2.76 mL, 2.0 g, 3.0 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(tert-butyloxycarbonyl)-azetidine-2(S)-carboxylic acid, methyl ester | 1.24 g, 87% yield | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)OC | C10H17NO4
